US05403934
3-(4-(4-Trifluoromethylphenoxy)phenyl)-2,6-dimethylpyran-4-one
A solution of 1-(4-(4-trifluoromethylphenoxy)phenyl)propan-2-one (54.5 g) in acetic anhydride (100 ml) was added, over 5 min, to a vigorously stirred mixture of polyphosphoric acid (200 g) and acetic anhydride (100 ml) at 80°. After stirring for 30 min the warm mixture was poured into water (1 liter). The solution was stirred for 30 min then extracted with toluene (3×500 ml). The combined extracts were washed with water then satd. aq. sodium bicarbonate, dried over magnesium sulphate and concentrated in vacuo to give an oil. Trituration with ether afforded the title compound as a yellow solid (18.20 g), m.p. 86°-7°, NMR δH (CDCl3) 6.95-7.8 (8H, m), 6.2 (1H, s), 2.3 (3H, s), 2.2 (3H, s).

reactant | 1-(4-(4-trifluoromethylphenoxy)phenyl)propan-2-one | 54.5 g | FC(C1=CC=C(OC2=CC=C(C=C2)CC(C)=O)C=C1)(F)F | C16H13F3O2
reactant | water | 1 liter | O | H2O
reactant | ether | CCOCC | C4H10O
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-(4-Trifluoromethylphenoxy)phenyl)-2,6-dimethylpyran-4-one | 18.20 g | FC(C1=CC=C(OC2=CC=C(C=C2)C2=C(OC(=CC2=O)C)C)C=C1)(F)F | C20H15F3O3
